*
* NGSPICE simulation script
*Title: t2.1
*

* forces current values to be saved
.options savecurrents

.include data1.txt
.include data2.txt
.include data3.txt

*voltage sources
Vs 1 0 0V

Vnull 0 0b 0.V

Hvd 5 8 Vnull 0kOhm


*current sources
Gib 6 3 2 5 0mS

*capacitor
C 6 8 pC
.ic V(6) = pV6 V(8) = pV8


*resistors
R1 1 2 pR1

R2 3 2 pR2

R3  2 5 pR3

R4 5 0 pR4

R5 6 5 pR5

R6 0b 7 pR6

R7 7 8 pR7

.op
.end


*Control comands
.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
*echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
*print all
*echo  "op_END"

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy t23.ps V(6)
echo t23_FIG

.endc
